US05912244
(3S,4S)-6-(3-tert-Butyldimethylsilyloxyphenyl)sulphonyl-3,4-dihydro-3,4-epoxy-2,2,3-trimethyl-2H-benzo[b]pyran (2.0 g) (see Preparation 15) and 2,3-dihydro-2-methyl-3-oxo-6-hydroxypyridazine (1.5 g) (see J.Org.Chem, 1971, 36, 3372) were suspended in ethanol (30 ml), pyridine (0.31 g) was added and the mixture was heated under reflux (a calcium chloride drying tube was attached to the flask) for 100 hours. After cooling the reaction was filtered and the filtrate was evaporated to yield a solid which was dissolved in 0.5% methanol/dichloromethane and filtered again. The filtrate was again evaporated and the residue was chromatographed on silica eluting with a solvent gradient of 0.5:99.5 to 3.75:96.25 methanol: dichloromethane to yield (3S ,4R)-3,4-dihydro-4-(2,3-dihydro-2-methyl-3-oxo-pyridazin-6-yl)oxy-3-hydroxy-6-(3-hydroxyphenyl)sulphonyl-2,2,3-trimethyl-2H-benzo[b]pyran (1.0 g) as a white solid. Found: C,53.20; H,4.79; N,5.22. C23H24N2O7S, 0.75 CH2Cl2 requires C,53.00; H,4.79; N,5.10%.

reactant | (3S,4S)-6-(3-tert-Butyldimethylsilyloxyphenyl)sulphonyl-3,4-dihydro-3,4-epoxy-2,2,3-trimethyl-2H-benzo[b]pyran | 2.0 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)S(=O)(=O)C1=CC2=C(OC([C@@]3([C@H]2O3)C)(C)C)C=C1 | C24H32O5SSi
reactant | 2,3-dihydro-2-methyl-3-oxo-6-hydroxypyridazine | 1.5 g | CN1N=C(C=CC1=O)O | C5H6N2O2
reactant | pyridine | 0.31 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | methanol dichloromethane | CO.ClCCl
product | (3S ,4R)-3,4-dihydro-4-(2,3-dihydro-2-methyl-3-oxo-pyridazin-6-yl)oxy-3-hydroxy-6-(3-hydroxyphenyl)sulphonyl-2,2,3-trimethyl-2H-benzo[b]pyran | 1.0 g | CN1N=C(C=CC1=O)O[C@@H]1C2=C(OC([C@@]1(C)O)(C)C)C=CC(=C2)S(=O)(=O)C2=CC(=CC=C2)O | C23H24N2O7S
